US05476942
1.2. 1,1-dimethylethyl (S,E)-2-[[(phenylmethoxy)carbonyl]amino]-5-[1-(triphenylmethyl)-1H-imidazol-4-yl]pent-4-enoate
50.93 g (820 mmol) of triphenyl[[1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]phosphonium chloride in solution in 333 ml of tetrahydrofuran are introduced, under argon, into a three-necked round-bottomed flask. 51.2 ml of a 1.6M solution of n-butyllithium in hexane (820 mmol) are added dropwise, at -70° C. After stirring for 30 minutes at -70° C., the reaction mixture is quickly poured into 270 ml of a 0.253M solution, cooled to -70° C., of 1,1-dimethylethyl (S)-4-oxo-2-[[(phenylmethoxy)carbonyl]amino]butanoate in tetrahydrofuran (683 mmol). The mixture is allowed to return to room temperature overnight. The mixture is hydrolysed with 280 ml of a saturated aqueous sodium chloride solution. The aqueous phase is separated from the organic phase and extracted with 2 times 140 ml of ethyl acetate. The organic phases are combined, dried over magnesium sulphate and evaporated to dryness. Purification is carried out by chromatography on a column of silica gel, the eluent being a hexane/ethyl acetate gradient.

reactant | triphenyl[[1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]phosphonium chloride | 820 mmol, 50.93 g | [Cl-].C1(=CC=CC=C1)[P+](CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 820 mmol | CCCCCC | C6H14
reactant | 1,1-dimethylethyl (S)-4-oxo-2-[[(phenylmethoxy)carbonyl]amino]butanoate | O=CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1 | C16H21NO5
reactant | sodium chloride | 280 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 333 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 683 mmol | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl (S,E)-2-[[(phenylmethoxy)carbonyl]amino]-5-[1-(triphenylmethyl)-1H-imidazol-4-yl]pent-4-enoate | C1(=CC=CC=C1)COC(=O)N[C@H](C(=O)OC(C)(C)C)C\C=C\C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H39N3O4
